Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"This is the fourth time ___ Mental has sent me to the hospital 
for no reason at all." 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
For further details surrounding the history and presentation, 
please see OMR, including Dr. ___ note dated 
___ and Dr. ___ admit note dated ___. 
.
Briefly, this is a ___ year old single man, history of Type II 
DM, chronic psychosis with prior diagnosis of schizoaffective 
disorder, cannabis use disorder (medical marijuana), s/p 
numerous psychiatric hospitalizations including intermediate 
care stays, recently discharged from ___, 
___ client, remote prior suicide attempts, significant history 
of violence with prior assaults and batteries, who presented to 
___ via EMS due to concerns of decompensation at his ___ 
follow up appointment. 
.
Per collateral obtained in the ED, the patient's mother, who is 
also his legal guardian, reported increasing signs of mania over 
the past month with increased energy, bizarre voice messages, 
increasing irritability and paranoid delusions that people are 
following him. She stated patient tends to become manic when he
is drinking too much caffeine, smoking marijuana, or has 
unregulated blood sugars, all of which he has had this month. 
Per his ___ worker, patient had recently called, asking where 
his knives and guns are. Of note, in ___, police 
found 2 large knives on patient's person when he was entering 
___
Mental. Patient has a history of chasing police officer down the 
street with an axe, breaking and entering into a woman's 
hospital, and history of assaulting a fellow patient in a 
hospital, dumping hot coffee on him and then beating him up. 
.
ED/Hospital Course: Patient notably irritable with team, 
refusing blood draws at times despite diabetes and concern for 
hyperglycemia. 
.
Patient seen with Dr. ___, PGY-1 and ___, 
___. Interview limited as patient was notably irritable at 
times and a notably unreliable historian. Mr. ___ reports he 
is in the hospital because "this is the fourth time ___ Mental 
has sent me to the hospital for no reason at all... I carried 
two knives into the building but I never stabbed anyone." 
Reported that he has been doing "great... I told the student 
nurses... read the records." 
.
Mr. ___ reported that he was recently discharged from the 
hospital but would not discuss the details. Stated he spends his 
time panhandling for money in order to buy cigarettes. Reported 
he receives $950/month from ___ but that was not enough money. 
Went on a tangent, stating he recently went to "___; I went to
the defense department but there was no one there except the ___ 
he was kicking a couple days ago." Reports he lives alone in an 
apartment and that ___ comes to his house about 3 times a week. 
Denied medication noncompliance. 
.
Patient reported "great" mood, denied difficulties with sleep, 
appetite. Reported good concentration and energy. Denied AVH. 
Denied history of manic symptoms including elevated mood, 
decreased need for sleep, increasing impulsivity, denied SI/HI, 
AVH. Refuses any medication changes and states he wants to be 
discharged immediately. 
.

 
Past Medical History:
Past Medical History 
-Diabetes Mellitus
-Schizoaffective d/o
-Polysubstance abuse
-HLD
.
Past Psychiatric History:
- Diagnoses: history of chronic psychosis starting at age ___
years with prior diagnoses of schizoaffective disorder and
bipolar disorder. 
- Hospitalizations: s/p numerous psychiatric hospitalizations,
most recently at ___ on ___ and ___ on ___. Also has had a number of intermediate care
hospitalizations including ___, ___,
___, ___  
- Medication Trials: unclear, s/p numerous med trials. States he
has been on Clozaril in the past but refuses to retry, "I hate
it." 
- SA/SIB: reportedly ___ prior suicide attempts, patient reports
they were about ___ years ago including overdose on insulin,
electrocution, cutting wrists. 
- Violence: ___
- Psychiatrist: Dr. ___ at ___
- Therapist: ___ 
- ___ Worker: ___: ___

 
Social History:
___
Family History:
- Paternal cousin with ___  
- Maternal uncle with ___  
- Reports that his parents were "weekend drunks."  

 
Physical Exam:
Physical Examination:
VS:  BP:152/71   HR:87   temp: 98.8   resp:16  O2 sat:99% on RA  

height: 76"  weight:235 lbs
General- NAD, WDWN, wearing street-clothes, poor dentition
Skin- no rashes, bruises, or lesions noted
HEENT- PERRL, atraumatic, normocephalic, 
Neck and Back- neck supple, no spinal deformities
Lungs- CTAB, no wheezes
CV- RRR, no murmurs, rubs or gallops
Abdomen: non-distended, non-tended
Extremities- no clubbing, cyanosis, or edema
Neuro:
  station and gait: normal gate
  one and strength: Patient moves all 4 extremities
symmetrically, full apparent strength
  cranial nerves: CN II-XII grossly normal 
  abnormal movements: no tics, slight tremor in arms, no 
evidence
of EPS

Neuropsychiatric Examination:
  *Appearance: well-developed, slightly overweight, poor
dentition, wearing green shirt with black vest
  Behavior: calm, cooperative, smiling
  *Mood and Affect: "fine"/ mood-congruent, euthymic, 
appropriate
range
  *Thought process: linear, goal-directed, no LOA
  *Thought Content: denies SI/HI, does not appear to be 
attending
to internal stimuli and denies AH/VH
  *Judgment and Insight: fair/poor
  Cognition:
    *Attention, *orientation, and executive function: alert and
oriented to person, place, situation, off by 3 days on date
    *Memory: intact to recent events, trouble listing current
medications, but states they have been changing
    *Fund of knowledge: consistent with level of education
    *Speech: normal tone, volume, rate and prosody
    *Language: fluent ___

Discharge Examination: 
VS: 97.8 BP: 145/80 HR: 83 RR:18 Sat 95% 
Mental Status:
*Appearance: Well nourished, obese abdomen, tall, disheveled, 
dressed in a dirty t-shirt and jeans, poor grooming and hygiene
 *Mood and Affect: "fine" / limited emotional expressivity,
guarded, congruent 
 *Thought process / *associations: linear, logical, goal
oriented, concrete; limited conversational spontaneity 
 *Thought Content: Denies SI/HI/AVH; no evidence of delusions or
paranoia, does not appear to be responding to internal stimuli
 *Judgment and Insight: improved

 
Pertinent Results:
___ 09:28PM   GLUCOSE-180* UREA N-17 CREAT-0.6 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-98 TOTAL CO2-26 ANION GAP-19
___ 09:28PM   ALT(SGPT)-45* AST(SGOT)-37 ALK PHOS-54 TOT 
BILI-0.3
___ 09:28PM   CALCIUM-9.9 PHOSPHATE-3.9 MAGNESIUM-1.2*
___ 09:28PM   VIT B12-394
___ 09:28PM   TSH-2.8
___ 09:28PM   WBC-5.5 RBC-4.59* HGB-14.5 HCT-43.8 MCV-95 
MCH-31.6 MCHC-33.1 RDW-12.7 RDWSD-44.3
___ 09:28PM   NEUTS-62.7 ___ MONOS-10.2 EOS-4.6 
BASOS-0.9 IM ___ AbsNeut-3.43 AbsLymp-1.16* AbsMono-0.56 
AbsEos-0.25 AbsBaso-0.05
___ 09:28PM   PLT COUNT-164

___ 09:28PM BLOOD ALT-45* AST-37 AlkPhos-54 TotBili-0.3
___ 09:28PM BLOOD Calcium-9.9 Phos-3.9 Mg-1.2*
___ 04:20AM BLOOD Calcium-9.2 Phos-3.4 Mg-1.4*
___ 04:18AM BLOOD Calcium-9.0 Phos-4.2 Mg-1.6
___ 09:28PM BLOOD VitB12-394
___ 04:20AM BLOOD %HbA1c-7.8* eAG-177*
___ 04:20AM BLOOD Prolact-25*
___ 09:28PM BLOOD TSH-2.8
___ 04:18AM BLOOD Valproa-77
___ 04:20AM BLOOD Valproa-56
___ 04:20AM BLOOD Valproa-64
___ 01:00PM BLOOD Valproa-51
___ 04:18AM BLOOD CLOZAPINE-Test      
___ 01:40PM BLOOD Neuts-53.5 ___ Monos-17.2* 
Eos-5.9 Baso-1.3* Im ___ AbsNeut-2.08 AbsLymp-0.83* 
AbsMono-0.67 AbsEos-0.23 AbsBaso-0.05
___ 04:18AM BLOOD Neuts-60.2 ___ Monos-10.6 Eos-6.0 
Baso-0.9 Im ___ AbsNeut-3.18 AbsLymp-1.08* AbsMono-0.56 
AbsEos-0.32 AbsBaso-0.05
___ 04:20AM BLOOD Neuts-65 Bands-5 Lymphs-17* Monos-8 Eos-3 
Baso-0 ___ Metas-1* Myelos-1* AbsNeut-3.71 AbsLymp-0.90* 
AbsMono-0.42 AbsEos-0.16 AbsBaso-0.00*
___ 01:36PM BLOOD Neuts-68 Bands-2 Lymphs-17* Monos-9 Eos-2 
Baso-1 Atyps-1* ___ Myelos-0 AbsNeut-3.36 AbsLymp-0.86* 
AbsMono-0.43 AbsEos-0.10 AbsBaso-0.05
___ 09:28PM BLOOD Neuts-62.7 ___ Monos-10.2 Eos-4.6 
Baso-0.9 Im ___ AbsNeut-3.43 AbsLymp-1.16* AbsMono-0.56 
AbsEos-0.25 AbsBaso-0.05

___ 05:47AM BLOOD WBC-4.6 RBC-4.14* Hgb-13.5* Hct-39.0* 
MCV-94 MCH-32.6* MCHC-34.6 RDW-12.2 RDWSD-42.5 Plt ___
___ 01:40PM BLOOD WBC-3.9* RBC-4.30* Hgb-13.4* Hct-40.8 
MCV-95 MCH-31.2 MCHC-32.8 RDW-12.3 RDWSD-42.5 Plt ___
___ 05:47AM BLOOD Neuts-50.3 ___ Monos-14.0* 
Eos-10.4* Baso-1.5* Im ___ AbsNeut-2.33 AbsLymp-1.04* 
AbsMono-0.65 AbsEos-0.48 AbsBaso-0.07
___ 01:40PM BLOOD Neuts-53.5 ___ Monos-17.2* 
Eos-5.9 Baso-1.3* Im ___ AbsNeut-2.08 AbsLymp-0.83* 
AbsMono-0.67 AbsEos-0.23 AbsBaso-0.05

___ 04:18AM BLOOD CLOZAPINE-197      
 
Brief Hospital Course:
Mr. ___ is single, domicile ___ with a past medical history 
of diabetes type 2, hyperlipidemia, and a past psychiatric 
history of schizoaffective disorder, cannabis use disorder 
(medical marijuana), with numerous psychiatric hospitalizations 
including intermediate care stays, recently discharged multiple 
psychiatric hospitals within the past couple weeks, ___ client 
with ___ guardianship, remote prior suicide attempts, 
significant history of violence with prior assaults and 
batteries, who presented to ___ via EMS due to concerns of 
decompensation at his ___ follow up appointment. Collateral 
expressed concern for decompensation given recent agitation, 
dressing bizarrely, bringing knives to appointments and making 
mention of stock-piling knives especially in the setting of 
history of unprovoked aggression and violence. He was admitted 
to the inpatient unit for stabilization and medication 
management. 

#. Legal/Safety: On admission, the patient signed a conditional 
voluntary agreement (Section 10 & 11, subsequently signed a 3 
day notice on ___. Section ___ were filed on ___ due to 
concern for his risk to others and ability to care for himself 
in the community; however, patient later retracted his 3 day 
notice prior to court hearing. Of note, patient's ___ 
guardianship was updated during his hospitalization. 

He was initially placed on 15 minute checks status though was 
later changed to 5 minute checks due to irritability and two 
incidents during which he invaded the personal space of staff 
members in unprovoked situations. He was also restricted from 
the back hall of the unit. He was changed back to 15 min checks. 
There were no episodes of acute agitation that required 
physical, chemical, or mechanical restraints. 

#. Schizoaffective Disorder, Bipolar type: Presented with 
decompensation with psychosis in the setting of chronic mental 
illness.
- On admission, depakote level was 54, patient's nightly 
Depakote was uptitrated from ___ mg QHS to 3,000 mg. Valproic 
level 77 on ___. He tolerated this well with no complaints of 
side effects. 
- Initially, patient's Seroquel was uptitrated from 300 mg to 
400 mg though was later discontinued in order to avoid excessive 
sedation and polypharmacy. 
- Haldol level on admission was 15 on Haldol decanoate. During 
his hospitalization, patient refused decanoate dose and 
treatment team did not have copy of renewed ___ order. 
Therefore, he was placed on up to 20mg BID, switched to 20mg qhs 
due to over sedation, then titrated off the haldol in favor of 
optimizing antipsychotic regimen with Clozaril and risperidone, 
particularly given EPS (parskinsonian symptoms). 
- Valium was continued at 5mg AM and 10mg ___ for agitation and 
insomnia, this was eventually tapered to stop given limited 
psychiatric benefit and increased sedation of his other 
antipsychotic medications.  
- On ___, met with patient's outpatient DMH team from ___ who 
stated that patient was far from baseline and that the Abilify 
decanoate had not been helpful for the patient. They noted 
several telltale signs that patient had decompensated and is at 
high risk for violence towards others. They also noted that in 
the past, patient was required prolonged hospitalizations for 
restabilization and improvement to baseline. 
-Pt was initially on abilify 15 mg in addition to the ___, this 
was discontinued on ___ after discussion with outpatient team. 
He was started on paliperidone 6 mg daily. Paliperidone was 
cross tapered to risperidone on ___ as paliperidone was not on 
his outpatient ___ order. Pt was given Risperidone 6mg QHS 
with Risperidone Consta 50mg every 2 weeks ___ and ___. Pt 
reported increased EPS side effects with the risperidone, it was 
changed to 3mg BID and he was continued on Benadryl 50mg BID 
with Benadryl 50 mg po prn. These side effects improved during 
the course of his admission. Of note, his prolactin= 25 but 
patient was asymptomatic. Discussed with Dr. ___, 
who recommended continuing the risperidone with close monitoring 
for side effects.
- Given his refractory symptoms and after discussion with Dr. 
___, his outpatient psychiatrist, on ___ pt was 
started on Clozapine initially 25 mg, titrated up by 25mg daily 
to a level of 200mg. Blood level drawn on ___ of 197. Pt 
continued to be titrated up to 350mg. Absolute neutrophil count 
monitored throughout the admission. Pt reported increased 
drooling, was offered atropine drops as needed, which he 
declined. He did complain of some daytime sedation, and we 
discussed the risks and benefits of starting Provigil, which he 
declined. There was not noted drop in ___. Recommend repeat of 
Clozaril level as an outpatient. 
- Patient was visible in the milieu and appropriate with staff 
overall.  Initially was not appropriate for groups, given 
agitation, however, he continued to improve and was given the 
option to attend group. ___ chose not to engage and preferred 
to be in his room most of the day. There were some incidents 
during the early part of his admission, where he was noted to 
enter the personal space of several staff members. There were a 
couple incidents during the beginning of his admission where he 
would take food from other peers' trays.  There were no behavior 
events that required chemical or physical restraints. Over the 
course of his admission and with redirection, he was able to 
maintain more appropriate space with his peers. Of note, patient 
consistently denied suicidal ideation or thoughts of self harm 
throughout his admission. 
- Further meetings with ___ outpatient ___ team, he 
continued to show improvement and was determined to be closer to 
baseline. He was able to successfully attend the ___ partial 
program on day pass from the inpatient unit (___) and 
was discharged on ___ with follow up at the ___ 
partial and with a daily ___ services 

#. Hypomagnesemia
On admission, patients Mg was 1.2. Patient refused IV Mg 
repletion. EKG showed new ectopic atrial tachycardia. Medicine 
consult resident was curbsided and reviewed the EKG and 
recommended to monitor this over time and that this finding was 
likely not related to electrolyte abnormalities. Pt was treated 
with oral supplementation Mag oxide PO 800 mg BID.  Mg upon 
discharge 1.6 on ___. 
-EKG should be rechecked as an outpatient to determine whether 
this ectopic atrial tachycardia is persistent and warrants 
further workup.

#. Diabetes Mellitus Type 2: Pt had difficulty with blood 
glucose control. Often elevated to the 400s or higher secondary 
to poor diet and frequent snacking. ___ was following 
throughout the admission with daily recommendations. He was 
placed on an insulin sliding scale with meals. Pt will be 
discharged on optimized oral regimen. 
-Glipizide XL 5 mg QHS was changed to Glipizide XL mg with 
breakfast 
-Continue Metformin 1000 mg PO BID

#HLD
-Continue Pravastatin 40 mg PO QHS
- Lipids monitored and were within normal limits 

Risk Assessment:
Initial risk assessment upon admission, his risk factors include 
history of violence and aggression towards others, 
assault/battery charges, symptoms concerning for decompensation. 
His protective factors include family support, guardianship, and 
relationship with PCP and ___ health care team. 
Therefore it was determined that inpatient level of care was the 
least restrictive to ensure stabilization, psychopharmacological 
management, and aftercare planning. Over the course of his 
admission, he continued to improve in regard to thought process, 
bizarre behavior and safety concerns. He was medication 
compliant and agreed to his aftercare. During his admission, his 
outpatient team was active in his care decisions and discharge 
planning. At this time, his prognosis is good. He has an 
involved outpatient team that works hard to keep him within the 
community.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine extended-release 400 mg PO QHS 
2. ClonazePAM 1 mg PO TID 
3. Benztropine Mesylate 1 mg PO BID 
4. MetFORMIN (Glucophage) 1250 mg PO BID 
5. TraZODone 100 mg PO QHS:PRN insomnia 
6. Pravastatin 40 mg PO QPM 
7. Divalproex (EXTended Release) 1500 mg PO QHS 
8. ClonazePAM 0.5-1 mg PO BID:PRN agitation/anxiety 
9. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
10. Haloperidol Decanoate 200 mg IM EVERY 2 WEEKS (TH) 
11. ARIPiprazole Extended Release 882 mg IM MONTHLY 

 
Discharge Medications:
1.  Clozapine 350 mg PO QHS 
RX *clozapine 100 mg 3.5 tablet(s) by mouth nightly Disp #*49 
Tablet Refills:*0 
2.  DiphenhydrAMINE 50 mg PO BID 
RX *diphenhydramine HCl 50 mg 1 capsule(s) by mouth twice a day 
Disp #*35 Capsule Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*28 Capsule Refills:*0 
4.  GlipiZIDE XL 10 mg PO DAILY 
RX *glipizide 10 mg 1 tablet(s) by mouth Daily with breakfast 
Disp #*14 Tablet Refills:*0 
5.  Magnesium Oxide 800 mg PO BID 
RX *magnesium oxide 400 mg 2 capsule(s) by mouth twice a day 
Disp #*56 Capsule Refills:*0 
6.  RisperiDONE Long Acting Injection 50 mg IM EVERY 2 WEEKS 
(MO) 
Last dose ___   
7.  RisperiDONE 3 mg PO BID 
RX *risperidone 3 mg 1 tablet(s) by mouth twice a day Disp #*28 
Tablet Refills:*0 
8.  Senna 8.6 mg PO BID:PRN constipation  
9.  Divalproex (EXTended Release) 3000 mg PO QHS 
RX *divalproex ___ mg 6 tablet(s) by mouth Nightly Disp #*84 
Tablet Refills:*0 
10.  MetFORMIN (Glucophage) 1000 mg PO BID w/ Breakfast & Dinner 

RX *metformin 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*28 Tablet Refills:*0 
11.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB  
12.  Pravastatin 40 mg PO QPM 
RX *pravastatin 40 mg 1 tablet(s) by mouth Nightly Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Schizoaffective disorder

 
Discharge Condition:
OBJECTIVE: 
VS: 97.8 BP: 145/80  HR: 83  RR:18 Sat 95% 
Mental Status:
*Appearance: Well nourished, obese abdomen, tall, disheveled, 
dressed in a dirty t-shirt and jeans, poor grooming and hygiene
 *Mood and Affect: 'fine' / limited emotional expressivity,
guarded, congruent 
 *Thought process / *associations: linear, logical, goal
oriented, concrete; limited conversational spontaneity 
 *Thought Content: Denies SI/HI/AVH; no evidence of delusions or
paranoia, does not appear to be responding to internal stimuli
 *Judgment and Insight: improved 

 
Discharge Instructions:
You were hospitalized at ___ for decompensated 
mania/psychosis. We managed your medications to optimize your 
regimen and prevent these symptoms and treated you with several 
types of therapy. You are now ready for discharge and follow-up 
with your outpatient treaters.  

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___